US05436229
A) Boc-D-Phe-Pro-OBzl
To a solution of Boc-D-Phe-OH (89.1 g, 336 mmol), Pro-OBzl.HCl (81.2g, 336 mmol), HOBT (50 g, 370 mmol) and N,N-diisopropylethylamine (176 mL, 1,008 mmol) at 0° C. in dichloromethane (600 mL) was added 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide.HCl (71 g, 370 mmol). After stirring for 18 h, the mixture was diluted with diethyl ether 1 L) and washed three times with 1N citric acid (250 mL), once with water (250 mL), three times with sat'd aqueous NaHCO3 (250 mL) and once with sat'd aqueous NaCl (250 mL). The organic phase was dried (Na2SO4), filtered, and concentrated in vacuo to yield 140 g (92.5%) of a pale yelow foam.

reactant | Boc-D-Phe-OH | 336 mmol, 89.1 g | N([C@H](CC1=CC=CC=C1)C(=O)O)C(=O)OC(C)(C)C | C14H19NO4
reactant | Pro-OBzl.HCl | 336 mmol, 81.2g | N1[C@H](C(=O)OCC2=CC=CC=C2)CCC1.Cl
reactant | HOBT | 370 mmol, 50 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N,N-diisopropylethylamine | 1,008 mmol, 176 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide | CN(CCCN=C=NCC)C | C8H17N3
reactant | HCl | 370 mmol, 71 g | Cl | ClH
solvent | dichloromethane | 600 mL | ClCCl | CH2Cl2
solvent | diethyl ether | 1 L | C(C)OCC | C4H10O
product | Boc-D-Phe-Pro-OBzl | N([C@H](CC1=CC=CC=C1)C(=O)N1[C@H](C(=O)OCC2=CC=CC=C2)CCC1)C(=O)OC(C)(C)C | C26H32N2O5
